US04294845
A solution of 5.82 ml of dichloroacetic acid in 100 ml of dioxane was added dropwise with stirring to a mixture of 12.8 g of sodium hydride in a 50% oil suspension, 100 ml of anhydrous dioxane and 600 mg of dibenzo-18-couronne-6 kept at room temperature and a solution of 14.1 g of 5-chloro-2-tert.-butyl-2-hydroxy-α-phenyl-benzene-methanol in 100 ml of dioxane was added dropwise at room temperature. The mixture was heated at 80° C. for 6 hours and was then cooled to room temperature which was kept on an ice bath. 400 ml of water were added and the aqueous phase was extracted with 600 ml of ether. The ether extract was extracted 3 times with 100 ml of 0.1 N sodium hydroxide solution and the aqueous phase was acidified with 2 N hydrochloric acid and was extracted 3 times with 150 ml of ether. The organic extracts were washed 3 times with 100 ml of water and were extracted with a saturated sodium bicarbonate solution and then 3 times with 100 ml of water. The combined aqueous phases were washed 3 times with ether and was acidified with 2 N hydrochloric acid. The aqueous phase was extracted 4 times with 150 ml of ether and the ether phases were washed 3 times with water, dried over magnesium sulfate, treated with activated carbon and evaporated to dryness to obtain 9.1 g of raw 6-chloro-4-tert.-butyl-4-phenyl-[4H]-1,3-benzodioxin-2-carboxylic acid (mixture of two racemates diastereoisomers).

reactant | dichloroacetic acid | 5.82 ml | ClC(C(=O)O)Cl | C2H2Cl2O2
reactant | sodium hydride | 12.8 g | [H-].[Na+]
reactant | 5-chloro-2-tert.-butyl-2-hydroxy-α-phenyl-benzene-methanol | 14.1 g | ClC=1C=CC(C(C1)C(O)C1=CC=CC=C1)(O)C(C)(C)C | C17H21ClO2
reactant | water | 400 ml | O | H2O
solvent | dioxane | 100 ml | O1CCOCC1 | C4H8O2
solvent | dioxane | 100 ml | O1CCOCC1 | C4H8O2
solvent | dioxane | 100 ml | O1CCOCC1 | C4H8O2
product | 6-chloro-4-tert.-butyl-4-phenyl-[4H]-1,3-benzodioxin-2-carboxylic acid | 9.1 g | ClC1=CC2=C(OC(OC2(C2=CC=CC=C2)C(C)(C)C)C(=O)O)C=C1 | C19H19ClO4
